US07812017B2
1-[1-(Phenylsulfonyl)-1H-indol-4-yl]ethanol
A solution of indole-4-carboxaldehyde (1.00 g, 6.89 mmol) in DMF (60 mL) under N2 was treated with NaH (95%; 20.7 mmol, 496 mg) at rt for 15 min. benzenesulfonyl chloride (972 μL, 7.58 mmol) was added and stirring continued for 1 min. it was cooled to 0° C. and quenched with H2O. The reaction mixture was extracted with EtOAc (3×), the combined org. phases washed with H2O (3×), brine and dried (Na2SO4). conc. in vacuo gave an orange glue (1.79 g), which was directly used in the Grignard addition. The solution of crude 1-(phenylsulfonyl)-1H-indole-4-carbaldehyde in THF (60 mL) was treated with MeMgBr (9.84 mL of a 1.4 M solution in Toluene/THF, 13.78 mmol) at rt for 20 min upon which another 9.84 mL (2 eq) of Grignard reagent were added and stirring continued for another 5 min. The reaction mixture was quenched with sat. NH4Cl, extracted with EtOAc (3×), the combined org. phases washed with brine, dried (Na2SO4) and the solvent removed in vacuo to give a yellow-brownish glue (2.21 g). The crude product was subjected to flash chromatography (SiO2, CH2Cl2:MeOH=100:1) to yield the title compound as a yellow/orange foam (1.687 g, 81% over 2 steps). MS (ESI+) for C16H15NO3S m/z 284 (M-OH)+.

reactant | indole-4-carboxaldehyde | 6.89 mmol, 1.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | NaH | 20.7 mmol, 496 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 7.58 mmol, 972 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 1-(phenylsulfonyl)-1H-indole-4-carbaldehyde | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C=O | C15H11NO3S
reactant | MeMgBr | C[Mg+].[Br-]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Toluene THF | C1(=CC=CC=C1)C.C1CCOC1
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[1-(Phenylsulfonyl)-1H-indol-4-yl]ethanol | 1.687 g, 81% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)C(C)O | C16H15NO3S
